US04281188
4.2 g (0.015 M) of 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one are heated at reflux for 3 hours in 80 ml of absolute tetrahydrofuran with 3.5 ml of chloroethylisocyanate and a catalytic amount of triethylamine. The mixture is left to stand at room temperature overnight. The solution is concentrated on a steam-bath and the residue is crystallised from ethyl acetate. There is obtained 1-(2-chloroethyl)-3-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]urea which melts at 240° C. with decomposition.

reactant | 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.015 M, 4.2 g | NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1 | C16H14FN3O
reactant | chloroethylisocyanate | 3.5 ml | ClCCN=C=O | C3H4ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 1-(2-chloroethyl)-3-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]urea | ClCCNC(=O)NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1 | C19H18ClFN4O2
